Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Ataxia/Altered Mental Status
 
Major Surgical or Invasive Procedure:
No major surgical or invasive procedures. 
 
History of Present Illness:
___ y/o F with HTN, hypothyroidism and alcoholism who presents 
with of ~1 week dizziness. Patient states has had unstable gait 
for several days causing her to fall on ___ in her bathroom 
She denies any head injury or LOC but does report that she 
bruised her right wrist. Dizziness is non-positional, does not 
feel like room is spinning and is not exacerbated with head 
movement. Denies changes in vision, headache, CP, SOB, n/v/d. 
Endorses smoking 5x cigarettes/day and drinking half a pint of 
EtOH daily. Denies drinking EtOH today, last drink was the day 
prior to admission. Per family, patient is significantly altered 
from her baseline over past week. Has also had some recent fecal 
incontinence. Unclear if related to dizziness hindering 
toileting or patient is unaware of incontinence.  
In the ED initial vitals were: 98.0, 71, 105/76, 16, 100%  
- Labs were significant for Mg 1.4, Cr 1.2 (baseline ). Serum 
tox screen was negative (including EtOH).  
- Patient was given thiamine 100mg x2, MVI, folate, magnesium 
oxide 400mg x1.  
Vitals prior to transfer were: 97.7, 65, 100/52, 18, 100% RA  
On the floor, patient reports that she feels well and has no 
complaints. History inconsistent, patient reports that her 
dizziness is positional and only associated with standing. She 
does not recall any episodes of fecal incontinence. Tried to 
contact both patient's mother and son by phone but no answer. 
Has trouble understanding some commands on examination.  
 
Past Medical History:
ASTHMA  
TOBACCO DEPENDENCE  
ALCOHOL DEPENDENCE  
HYPOTHYROIDISM  
HYPERTENSION  
S/P BARIATRIC SURGERY  
H/O ALCOHOLIC HEPATITIS 
GOUT 
 
Social History:
___
Family History:
Family history significant for T2DM, HTN, hypothyroidism and 
asthma.
 
Physical Exam:
ADMISSION PHYSICAL EXAM
=======================
Vitals - 98.2, 90/56, 68, 16, 100% RA  
GENERAL: NAD, lying in bed  
HEENT: AT/NC, EOMI, PERRL, anicteric sclera, pink conjunctiva, 
MMM, poor dentition  
NECK: nontender supple neck, no LAD, no JVD  
CARDIAC: RRR, normal S1/S2, no murmurs, gallops, or rubs  
LUNG: CTAB, no wheezes, rales, rhonchi, breathing comfortably 
without use of accessory muscles  
ABDOMEN: Soft, nondistended, +BS, nontender in all quadrants, no 
rebound/guarding, no hepatosplenomegaly  
EXTREMITIES: no cyanosis, clubbing or edema  
PULSES: 2+ DP pulses bilaterally  
NEURO: CN II-XII intact, moving all 4 extremities with purpose. 
Strength ___ for upper extremities, ___ for lower extremities. 
Patient seems to have some difficulty understanding 
instructions. Poor attention. Flat affect.  
SKIN: warm and well perfused, no excoriations or lesions, no 
rashes

DISCHARGE PHYSICAL EXAM
=======================
Vitals - Temperature 98.0-98.3 84-97/48-58, 63-80, 18, 98-100% 
on RA 
GENERAL: Patient is laying in bed comfortably watching 
television. She appears more awake and oriented than yesterday. 
She is A+Ox3. CARDIAC: Regular rate and rhythm, normal S1 and 
S2, no m/r/g. 
LUNG: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi. ABDOMEN: soft, non-tender, non-distended no rebound or 
guarding, no organomegaly.  
EXTREMITIES: Right ankle remains warm and tender to touch. Also 
swelling noted surrounding the right ankle. The swelling is 
decreased compared to yesterday. Dorsiflexion and plantarflexion 
is ___ strength of right. Inversion and eversion of the right 
foot is ___ although pain is noted on the lateral aspect of the 
right foot. No swelling or warmth of the left ankle noted. 
PULSES: 2+ DP pulses bilaterally. 
COGNITIVE: Alert and oriented x 3.
 
Pertinent Results:
ADMISSION LABS
==============
___ 06:39PM BLOOD WBC-7.6 RBC-3.15* Hgb-11.9* Hct-37.5 
MCV-119* MCH-37.8* MCHC-31.7 RDW-17.5* Plt ___
___ 06:39PM BLOOD Neuts-59.5 ___ Monos-5.5 Eos-2.0 
Baso-0.3
___ 06:39PM BLOOD Plt ___
___ 06:39PM BLOOD Glucose-141* UreaN-16 Creat-1.2* Na-141 
K-4.1 Cl-101 HCO3-26 AnGap-18
___ 06:39PM BLOOD Albumin-3.9 Calcium-9.2 Phos-4.2 Mg-1.4*
___ 09:25PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG

MICROBIOLOGY
============
Blood Culture, Routine (Final ___: NO GROWTH.
RAPID PLASMA REAGIN TEST (Final ___: NONREACTIVE. 
Reference Range: Non-Reactive.  

IMAGING
=======
___ CHEST (PA & LAT)  
FINDINGS: PA and lateral views of the chest provided. There is 
no focal consolidation, effusion, or pneumothorax. The 
cardiomediastinal silhouette is normal. Imaged osseous 
structures are intact. No free air below the right hemidiaphragm 
is seen.  
IMPRESSION: No acute intrathoracic process.
  
___ CT HEAD W/O CONTRAST  
FINDINGS: There is no intra-axial or extra-axial hemorrhage, 
edema, shift of normally midline structures, or evidence of 
acute major vascular territorial infarction. Sulcal prominence 
especially within the cerebellum is age hands consistent with 
atrophy. The ventricles are normal in overall size and 
configuration. The basilar cisterns are widely patent. The 
imaged paranasal sinuses are clear. Mastoid air cells and middle 
ear cavities are well aerated. The bony calvarium is intact.  
IMPRESSION: No acute intracranial process. Age advanced atrophy. 

 
___ LIVER OR GALLBLADDER US (SINGLE ORGAN) PRELIMINARY 
REPORT  
IMPRESSION: IMPRESSION: Normal exam. In particular, liver 
appears normal.

OTHER NOTABLE LABS
==================
___ 06:39PM BLOOD ALT-18 AST-34 AlkPhos-102 TotBili-0.8
___ 09:25PM BLOOD VitB12-216*
___ 09:25PM BLOOD TSH-1.3
___ 05:40AM BLOOD Ret Aut-2.7
___ 05:40AM BLOOD calTIBC-221* Ferritn-90 TRF-170*
___ 05:35AM BLOOD Folate-8.5
___ 05:35AM BLOOD Cortsol-11.0

DISCHARGE LABS
==============
___ 05:50AM BLOOD WBC-4.9 RBC-2.39* Hgb-8.8* Hct-29.0* 
MCV-121* MCH-36.8* MCHC-30.3* RDW-17.3* Plt ___
___ 05:50AM BLOOD Plt ___
___ 05:50AM BLOOD Glucose-81 UreaN-13 Creat-0.9 Na-141 
K-4.6 Cl-109* HCO3-24 AnGap-13
___ 05:50AM BLOOD Calcium-8.9 Phos-5.8* Mg-1.9
 
Brief Hospital Course:
Ms. ___ is a ___ with PMH significant for HTN, hypothyroidism 
and alcoholism who presents with one-two weeks of ataxia and 
altered mental status per family.  

#___'S ENCEPHALOPATHY: Ms. ___ came in with change in 
mental status over the past two weeks. According to family, she 
was slow to respond to questions and had forgotten to do some of 
her daily activities. She has a history significant for chronic 
alcohol use. In addition to change in mental status, she also 
had ataxia with unbalance on feet. She did not have 
opthalmoplegia. Given the altered mental status and ataxia, she 
was treated for Wernicke's Encephalopathy. She was given 
thiamine 500 mg IV TID for 3 days, followed by thiamine 500 mg 
IV daily until she left against medical advice on ___. Prior to 
discharge recommendation was to take thiamine 100 mg PO daily. A 
CT of the head did show cerebellar atrophy which also likely 
played a role in her change in mental status. Vitamin B12 was 
found to be low at 216, therefore she was given B12 IM 1000 mcg 
daily was from ___. Recommendation for was vitamin B12 IM 
1000 mcg daily for 10 days and then vitamin B12 IM 1000 mcg 
weekly for ___ weeks, then vitamin B12 IM 1000 mcg monthly. 
Since the patient left AMA, she was given cyanocbolamin 1000 mcg 
PO daily. Neurology was consulted. They believed the source of 
the altered mental status likely was multifactorial including 
vitamin deficiencies of thiamine, B12, as well as chronic 
sequelae of alcohol use, recommended neurology f/u. With 
supplementation with thiamine, vitamin B12, multivitamin and a 
balanced diet, her altered mental status improved and she was 
near baseline, however we advised that she stay in house for 
further rehabilitation given that she didn't pass ___ due to 
instability and did not qualify for rehab.  She was advised of 
the risks of discharge including further instability leading to 
falls and at the extreme, death, however she elected to leave 
regardles.

#GOUT: Ms. ___ has a history of gout. During hospitalization 
she developed swelling, erythema, and warmth of the right ankle. 
This was initially treated with naproxen 750 mg PO, followed by 
250 mg PO Q8H with meals for five days (day 1: ___. The 
gout responded well to the naproxen. As she left AMA, we 
recommended she continue the naproxen for 2 additional days 
after the symptoms resolve. We also advised her to contact her 
PCP if the symptoms last more than one week.

#HYPOTENSION: During hospitalization, Ms. ___ had systolic 
blood pressures ranging from the upper ___ to low 100s. She 
remained asymptomatic when her blood pressures were low. She did 
not feel chest pressure, tightness, shortness of breath, or 
lightheadedness/dizziness when standing. Initial thought was 
that it was due to poor nutrition/low volume satus. Fluid 
repletion and improved diet did improve blood pressure into the 
high ___. Even after IVFs and improved nutrition blood pressure 
still remained low.  An AM cortisol was obtained to assess 
adrenal function and was normal at 11.  She had no evidence of 
infection and remained asymptomatic. 

#ANEMIA: Patient presented with a macrocytic anemia. This was 
likely in the setting of chronic alcohol use as well as her 
previous bariatic surgery. B12 was low as noted above. To 
replete B12, we gave Vitamin B12 IM 1000 mcg daily. We also 
provided folic acid even though folate was within normal limits 
at 8. H/H remained relatively stable during hospitalization and 
was 8.8/29.2 at the time of discharge. She remained asymptomatic 
with no lightheadedness, dizziness, sob, or chest pain. She 
required no transfusions during hospitalization.     

#ALCOHOL DEPENDENCE: Ms. ___ has a significant history of 
alcohol consumption. She remained on CIWA protocol and did not 
score. She received multivitamin, folate, thimaine and B12 as 
noted above. Social work was consulted. Based on report from 
social work, she was willing to attend ___ 
Substance Abuse Program. Social work also provided a list of 
local AA meetings. Ms. ___ noted motivation in trying to 
become sober. Her main motivation is improving herself for her 
son. 

#HYPOTHYROIDISM: TSH was obtained during hospitalization was 
1.3. Hypothyroidism stable. She was continued on her home dose 
of levothyroxine.  
 
#ASTHMA: Well controlled and without wheezing or dyspnea on exam 
during hospitalization. We continued home Advair and albuterol 
rescue inhaler prn.  

TRANSITIONAL ISSUES
====================
#ALTERED MENTAL STATUS/ATAXIA: Please follow-up in Neurology 
clinic for further management of the altered mental 
status/ataxia. 
#OCCUPATIONAL THERAPY: Will followup recommendations from 
occupational therapy: recommend intermittent supervision and 
assist with IADLs from family given cognitive decline. 
#HYPOTENSION: Blood pressures were low during hospitalization 
(SBP between high ___ and low 100s). Remained asymptomatic. ___ 
be due to autonomic dysfunction given chronic alcohol use. 
Consider tilt-table test and/or use of fludricortisone. 
#ALCOHOL USE: Please follow-up with goal towards sobriety.  
Patient willing to attend ___ Evening Substance 
Abuse Program. SW provided list of local AA meetings.
#VITAMIN B12 REGIMEN for Vitamin B12 Deficiency: She was 
prescribed cyanocobolamin 1000 mcg PO daily. 
#GOUT: please follow-up with examination of the right ankle, as 
this is the site the gout developed. If not improving, consider 
use of colchicine.
#CODE STATUS: FULL CODE   
#CONTACT: ___ (son); ___. ___ 
(mother); ___    
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Lisinopril 2.5 mg PO DAILY 
2. Hydrochlorothiazide 25 mg PO DAILY 
3. Levothyroxine Sodium 50 mcg PO DAILY 
4. FoLIC Acid 1 mg PO DAILY 
5. Fluticasone-Salmeterol Diskus (100/50) 1 INH IH BID 
6. Albuterol Inhaler ___ PUFF IH Q4H:PRN SOB, wheezing 
7. Ascorbic Acid ___ mg PO DAILY 
8. Calcium Carbonate 600 mg PO BID 
9. Multivitamins 1 TAB PO DAILY 

 
Discharge Medications:
1. Albuterol Inhaler ___ PUFF IH Q4H:PRN SOB, wheezing 
2. Ascorbic Acid ___ mg PO DAILY 
3. Fluticasone-Salmeterol Diskus (100/50) 1 INH IH BID 
4. FoLIC Acid 1 mg PO DAILY 
5. Levothyroxine Sodium 50 mcg PO DAILY 
6. Multivitamins 1 TAB PO DAILY 
7. Acetaminophen 650 mg PO Q6H:PRN pain 
8. Docusate Sodium 100 mg PO BID:PRN constipation 
9. Naproxen 250 mg PO Q8H 
RX *naproxen [Naprosyn] 250 mg 1 tablet(s) by mouth q8 hrs Disp 
#*21 Tablet Refills:*0
10. Polyethylene Glycol 17 g PO DAILY:PRN constipation 
11. Senna 8.6 mg PO BID constipation 
12. Thiamine 100 mg PO DAILY 
RX *thiamine HCl 100 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*3
13. Cyanocobalamin 1000 mcg PO DAILY 
RX *cyanocobalamin (vitamin B-12) 1,000 mcg 1 tablet(s) by mouth 
daily Disp #*30 Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY: ___'s Encephalopathy
SECONDARY: Alcohol use, anemia, vitamin B12 deficiency, gout, 
hypotension, hypothyroidism. 
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent but difficulty with 
stairs

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to ___ 
with ataxia (difficulty with your balance) as well as slowing of 
your thinking. You were initially evaluated with imaging of your 
head (head CT) which showed atrophy (weakening) of the 
cerebellum (part of the brain). This was likely due to chronic 
alcohol use in the past. The ataxia and slowing of your thinking 
was also likely due to the chronic alcohol use in the past. In 
order to help improve your thinking, we gave you a vitamin 
called thiamine which helped improve your thinking as well as 
your balance. We also continued you with other vitamins and 
minerals including Vitamin B12, folic acid, a multivitamin. We 
also had the neurologists (brain doctors) come and see you to 
evaluate your unsteadiness on your feet and slowed thinking. 
They also recommended continuing with the vitamins that we had 
been giving you. The neurologists would also like to have you 
seen as an outpatient with a neurologist within the At___ 
network. We also had social work come see you to discuss options 
regarding resources to help quit alcohol consumption.   We 
recommended that you stay in the hospital given your ongoing 
difficulty with standing and climbing stairs, and need for 
physical therapy as well as ongoing IV thiamine.  You elected to 
leave against medical advice.  You were advised of the risks of 
leaving against medical advice, including falling with 
possibility of serious injury including death, worsening 
confusion, poor pain control and worsening of gout.  You 
understood and accepted these risks and elected to leave against 
medical advice regardless.

While in the hospital, you were also treated for a gout flare.  
You should continue to take naproxen for 2 days after your 
symptoms resolve and you should contact your PCP if your 
symptoms last for more than a week.

We encourage you to continue taking these vitamins as they are 
helping improve your symptoms.  

It was a pleasure taking care of you in the hospital!

Sincerely,
Your ___ Care Team 
 
Followup Instructions:
___